US05102667
N,N'-Carbonyldiimidazole (0.77 g) is added to a solution of 2-methylthiophenylacetic acid (0.87 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 15 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (1.56 g) and triethylamine (1.34 cc) in dichloromethane (30 cc) is then added. The reaction mixture is stirred at 20° C. for 3.5 hours, then washed with water (3×100 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (0.04-0.063 mm, diameter 5 cm, height 50 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (60/40 by volume) and collecting 50 cc fractions. Fractions 1 to 14 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is recrystallized from acetonitrile (5 cc) and the crystals are drained, washed with isopropyl ether and dried. (3aRS,7aRS)-7,7-diphenyl-2-[(2-methylthiophenyl)acetyl]-4-perhydroisoindolone (1.29 g) is obtained in the form of pale yellow crystals melting at 188° C.

reactant | 2-methylthiophenylacetic acid | 0.87 g | CSC1=C(C=CC=C1)CC(=O)O | C9H10O2S
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 1.56 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.34 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[(2-methylthiophenyl)acetyl]-4-perhydroisoindolone | 1.29 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)SC)=O)=O)C1=CC=CC=C1 | C29H29NO2S
